US08071588B2
5-(Aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine (30.0 mg, 0.1 mmol) and 1,1-cyclopropanedicarboxylic acid (0.1 mmol) was dissolved in DCM (3 mL), added in HOBt (1.0 eq, 14.0 mg), EDC (1.0 eq, 19.0 mg). The resultant solution was stirred overnight. The solution was purified by Gilson to yield 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-cyclopropanecarboxylic acid. 1-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-cyclopropanecarboxylic acid was dissolved in 3 mL DCM with 1,1-dimethylethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate (41.3 mg, 0.1 mmol), added in HOBt (1.0 eq, 14.0 mg) and EDC (1.0 eq, 19.0 mg). The resultant solution was stirred overnight and then was purified by reverse phase hplc using a Gilson (0.1% TFA conditions) to yield 1,1-dimethylethyl (2S)-4-[(5′-{[({1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropyl}carbonyl)-amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate.

reactant | 5-(Aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine | 0.1 mmol, 30.0 mg | NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H25N5O
reactant | 1,1-cyclopropanedicarboxylic acid | 0.1 mmol | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
reactant | HOBt | 14.0 mg, 1.0 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 19.0 mg, 1.0 eq
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-cyclopropanecarboxylic acid | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2(CC2)C(=O)O)CC | C21H29N5O4
